US09422235B2
4-Cyclohexylamino-N-(tetrahydro-furan-2-ylmethyl)-2-trifluoromethyl-benzenesulfonamide
Mixture of 4-bromo-N-(tetrahydrofuran-2-ylmethyl)-2-trifluoromethylbenzenesulfonamide (200 mg, 0.51 mmol), cyclohexylamine (193 mg, 1.94 mmol), Pd(OAc)2 (22 mg, 0.10 mmol), BINAP (70 mg, 0.11 mmol) and cesium carbonate (340 mg, 1.01 mmol) in 15 ml toluene was relaxed for 6 hours. Toluene was evaporated in vacuum and crude oil was purified twice by Combiflash (PE-THF). Yield 29%

reactant | 4-bromo-N-(tetrahydrofuran-2-ylmethyl)-2-trifluoromethylbenzenesulfonamide | 0.51 mmol, 200 mg | BrC1=CC(=C(C=C1)S(=O)(=O)NCC1OCCC1)C(F)(F)F | C12H13BrF3NO3S
reactant | cyclohexylamine | 1.94 mmol, 193 mg | C1(CCCCC1)N | C6H13N
reactant | BINAP | 0.11 mmol, 70 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | cesium carbonate | 1.01 mmol, 340 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(OAc)2 | 0.10 mmol, 22 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 4-Cyclohexylamino-N-(tetrahydro-furan-2-ylmethyl)-2-trifluoromethyl-benzenesulfonamide | Yield 29% | C1(CCCCC1)NC1=CC(=C(C=C1)S(=O)(=O)NCC1OCCC1)C(F)(F)F | C18H25F3N2O3S
